### PR TITLE
[Merged by Bors] - chore(CategoryTheory): `IsRegularEpi` and its `MorphismProperty`

### PR DESCRIPTION
**Pull request by FernandoChu**
This PR proves that isos are regular epis, and that epis are closed under postcomposition of isos. It also adds `IsRegularEpi` and the `MorphismProperty` it induces. This is so we can define regular categories, which require the regular epis to be stable under base change.

This is a prerequisite of the [MTT project](https://github.com/kyoDralliam/model-theory-topos), which aims to use the internal language of toposes to reason about e.g. sheaves.

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 1]
```diff
@@ -57,6 +59,47 @@ attribute [reassoc] RegularMono.w
...
+    (f : Y ⟶ Z) [h : RegularMono f] (g : X ⟶ Y) [IsIso g] : RegularMono (g ≫ f) where
+  Z := h.Z
+  left := h.left
+  right := h.right
+  w := by rw [Category.assoc, h.w, Category.assoc]
+  isLimit := Fork.isLimitOfIsos _ h.isLimit _ (Iso.refl _) (Iso.refl _) (asIso (inv g))
+
+/-- `IsRegularMono f` is the assertion that `f` is a regular monomorphism. -/
+class IsRegularMono {X Y : C} (f : X ⟶ Y) : Prop where
+  exists_regularMono : Nonempty (RegularMono f)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]: `Nonempty` is already a typeclass, why not making this an `abbrev` instead? (This would also require less changes to the rest of the code.)

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 2]
```diff
@@ -57,6 +59,47 @@ attribute [reassoc] RegularMono.w
...
+instance (priority := 100) RegularMono.ofIso (f : X ⟶ Y) [IsIso f] : RegularMono f where
+  Z := Y
+  left := 𝟙 Y
+  right := 𝟙 Y
+  isLimit := Fork.IsLimit.mk _ (fun s ↦ s.ι ≫ inv f) (by simp) fun s m w ↦ by
+    rw [IsIso.eq_comp_inv, ← w]; simp
+
+/-- Regular monomorphisms are preserved when precomposing with an isomorphism. -/
+instance (priority := 100) RegularMono.ofIsoCompRegularMono {Z}
+    (f : Y ⟶ Z) [h : RegularMono f] (g : X ⟶ Y) [IsIso g] : RegularMono (g ≫ f) where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]: Could you prove more generally that if `Arrow.mk f` is isomorphic to `Arrow.mk g`, then `RegularMono f` implies `RegularMono g`? (This way, we could deduce that `MorphismProperty` respects isomorphisms.)

**Comment by FernandoChu** [comment]
Thanks for the review. I implemented the changes.

-awaiting-author

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 3]
```diff
@@ -57,6 +59,52 @@ attribute [reassoc] RegularMono.w
 instance (priority := 100) RegularMono.mono (f : X ⟶ Y) [RegularMono f] : Mono f :=
   mono_of_isLimit_fork RegularMono.isLimit
 
+/-- Every isomorphism is a regular monomorphism. -/
+instance (priority := 100) RegularMono.ofIso (f : X ⟶ Y) [IsIso f] : RegularMono f where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]: As this typeclass contains data, this should be a `def` rather than an instance.

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 4]
```diff
@@ -57,6 +59,52 @@ attribute [reassoc] RegularMono.w
...
+def RegularMono.ofArrowIso {X'} {Y'} {f : X ⟶ Y} {g : X' ⟶ Y'}
+    (e : Arrow.mk f ≅ Arrow.mk g) [h : RegularMono f] :
+    RegularMono g where
+  Z := h.Z
+  left := e.inv.right ≫ h.left
+  right := e.inv.right ≫ h.right
+  w := by
+    have := Arrow.mk_hom g ▸ Arrow.w_mk_right e.inv
+    simp_rw [← reassoc_of% this, h.w]
+  isLimit := Fork.isLimitOfIsos _ h.isLimit _ (Comma.rightIso e) (Iso.refl _) (Comma.leftIso e)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]: Instead of `Comma.rightIso/leftIso`, could you use `Arrow.rightFunc.mapIso e`? (Beware I have not tested the exact syntax here.)

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 5]
```diff
@@ -57,6 +59,52 @@ attribute [reassoc] RegularMono.w
...
+
+/-- `IsRegularMono f` is the assertion that `f` is a regular monomorphism. -/
+abbrev IsRegularMono {X Y : C} (f : X ⟶ Y) : Prop := Nonempty (RegularMono f)
+
+variable (C) in
+/-- The `MorphismProperty C` satisfied by regular monomorphisms in `C`. -/
+def MorphismProperty.regularMono : MorphismProperty C := fun _ _ f => IsRegularMono f
+
+@[simp]
+theorem MorphismProperty.regularMono.iff (f : X ⟶ Y) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]: This would make it closer to what we have for other morphism properties:
```suggestion
theorem MorphismProperty.regularMono_iff (f : X ⟶ Y) :
```

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 6]
```diff
@@ -57,6 +59,52 @@ attribute [reassoc] RegularMono.w
 instance (priority := 100) RegularMono.mono (f : X ⟶ Y) [RegularMono f] : Mono f :=
   mono_of_isLimit_fork RegularMono.isLimit
 
+/-- Every isomorphism is a regular monomorphism. -/
+def RegularMono.ofIso (f : X ⟶ Y) [IsIso f] : RegularMono f where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]: Could you use the assumption `e : X≅Y` instead? (As the definition contains data, it is slightly better to use an `Iso` rather than a `IsIso` property. Then, you may apply this declaration to `asIso f` when you only know `f` is a morphism that is an isomorphism.)
(I am nitpicking a little bit here.)

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 7]
```diff
@@ -57,6 +59,52 @@ attribute [reassoc] RegularMono.w
...
+
+instance MorphismProperty.regularMono.containsIdentities :
+    (MorphismProperty.regularMono C).ContainsIdentities where
+  id_mem _ := ⟨RegularMono.ofIso _⟩
+
+instance MorphismProperty.regularMono.respectsIso :
+    (MorphismProperty.regularMono C).RespectsIso :=
+  RespectsIso.of_respects_arrow_iso _ (fun _ _ e h ↦ ⟨.ofArrowIso e (h := h.some)⟩)
+
+instance is_regular_mono_of_regular_mono (f : X ⟶ Y) [h : RegularMono f] : IsRegularMono f := ⟨h⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]:
```suggestion
instance isRegularMono_of_regularMono (f : X ⟶ Y) [h : RegularMono f] : IsRegularMono f := ⟨h⟩
```
(Note that in most cases, it is not very necessary to give name to declarations of instances.)

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 8]
```diff
@@ -57,6 +59,53 @@ attribute [reassoc] RegularMono.w
 instance (priority := 100) RegularMono.mono (f : X ⟶ Y) [RegularMono f] : Mono f :=
   mono_of_isLimit_fork RegularMono.isLimit
 
+/-- Every isomorphism is a regular monomorphism. -/
+def RegularMono.ofIso (e : X ≅ Y) : RegularMono e.hom where
+  Z := Y
+  left := 𝟙 Y
+  right := 𝟙 Y
+  isLimit := Fork.IsLimit.mk _ (fun s ↦ s.ι ≫ e.inv) (by simp) fun s m w ↦ by
+    dsimp; rw [← w]; simp
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]:
```suggestion
    simp [← w]
```

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 9]
```diff
@@ -57,6 +59,53 @@ attribute [reassoc] RegularMono.w
...
+    (MorphismProperty.regularMono C).ContainsIdentities where
+  id_mem _ := ⟨RegularMono.ofIso <| Iso.refl _⟩
+
+instance MorphismProperty.regularMono.respectsIso :
+    (MorphismProperty.regularMono C).RespectsIso :=
+  RespectsIso.of_respects_arrow_iso _ (fun _ _ e h ↦ ⟨.ofArrowIso e (h := h.some)⟩)
+
+instance isRegularMono_of_regularMono (f : X ⟶ Y) [h : RegularMono f] : IsRegularMono f := ⟨h⟩
+
+instance (priority := low) regularMonoOfIsRegularMono (f : X ⟶ Y) [h : IsRegularMono f] :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]:
```suggestion
-- See note [lower instance priority]
instance (priority := low) regularMonoOfIsRegularMono (f : X ⟶ Y) [h : IsRegularMono f] :
```

Mathlib4's current setup to read library notes is a bit wonky, but the situation is expected to improve at some point, so I think it’s still useful to mention these notes when relevant.

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 10]
```diff
@@ -57,6 +59,53 @@ attribute [reassoc] RegularMono.w
...
+    RegularMono f :=
+  h.some
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]: As for the case of isomorphism, we are actually creating data here, and so possibly problems (e.g potentially a loop with the instance `isRegularMono_of_regularMono` above: even if in theory the lower priority should avoid this particular problem, this is still playing a dangerous game).

```suggestion
def regularMonoOfIsRegularMono (f : X ⟶ Y) [h : IsRegularMono f] :
    RegularMono f :=
  h.some
```

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 11]
```diff
@@ -183,6 +232,53 @@ attribute [reassoc] RegularEpi.w
 instance (priority := 100) RegularEpi.epi (f : X ⟶ Y) [RegularEpi f] : Epi f :=
   epi_of_isColimit_cofork RegularEpi.isColimit
 
+/-- Every isomorphism is a regular epimorphism. -/
+def RegularEpi.ofIso (e : X ≅ Y) : RegularEpi e.hom where
+  W := X
+  left := 𝟙 X
+  right := 𝟙 X
+  isColimit := Cofork.IsColimit.mk _ (fun s ↦ e.inv ≫ s.π) (by simp) fun s m w ↦ by
+    dsimp; rw [← w]; simp
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]:
```suggestion
    simp [← w]
```

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 12]
```diff
@@ -183,6 +232,53 @@ attribute [reassoc] RegularEpi.w
...
+    (MorphismProperty.regularEpi C).ContainsIdentities where
+  id_mem _ := ⟨RegularEpi.ofIso <| Iso.refl _⟩
+
+instance MorphismProperty.regularEpi.respectsIso :
+    (MorphismProperty.regularEpi C).RespectsIso :=
+  RespectsIso.of_respects_arrow_iso _ (fun _ _ e h ↦ ⟨.ofArrowIso e (h := h.some)⟩)
+
+instance isRegularEpi_of_regularEpi (f : X ⟶ Y) [h : RegularEpi f] : IsRegularEpi f := ⟨h⟩
+
+instance (priority := low) regularEpiOfIsRegularEpi (f : X ⟶ Y) [h : IsRegularEpi f] :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]:
```suggestion
def regularEpiOfIsRegularEpi (f : X ⟶ Y) [h : IsRegularEpi f] :
```

**Review by robin-carlier — COMMENTED** [review]
The module docstring of the file `CategoryTheory/Limits/Shapes/RegularMono.lean` should mention `IsRegularMono` (resp. `IsRegularEpi`), and mention the difference between these and `RegularMono` (resp. `RegularEpi`), i.e the fact that the latter contains data but not the former.

**Comment by FernandoChu** [comment]
Thanks for the review. I've implemented the changes.

-awaiting-author

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 13]
```diff
@@ -57,6 +65,54 @@ attribute [reassoc] RegularMono.w
...
+abbrev IsRegularMono {X Y : C} (f : X ⟶ Y) : Prop := Nonempty (RegularMono f)
+
+variable (C) in
+/-- The `MorphismProperty C` satisfied by regular monomorphisms in `C`. -/
+def MorphismProperty.regularMono : MorphismProperty C := fun _ _ f => IsRegularMono f
+
+@[simp]
+theorem MorphismProperty.regularMono_iff (f : X ⟶ Y) :
+    (MorphismProperty.regularMono C) f ↔ IsRegularMono f :=
+  by rfl
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]:
```suggestion
  Iff.rfl
```

`by rfl` is also fine, but the `by` needs to be on the same line as the `:=`.

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 14]
```diff
@@ -183,6 +239,54 @@ attribute [reassoc] RegularEpi.w
...
+abbrev IsRegularEpi {X Y : C} (f : X ⟶ Y) : Prop := Nonempty (RegularEpi f)
+
+variable (C) in
+/-- The `MorphismProperty C` satisfied by regular epimorphisms in `C`. -/
+def MorphismProperty.regularEpi : MorphismProperty C := fun _ _ f => IsRegularEpi f
+
+@[simp]
+theorem MorphismProperty.regularEpi_iff (f : X ⟶ Y) :
+    (MorphismProperty.regularEpi C) f ↔ IsRegularEpi f :=
+  by rfl
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]:
```suggestion
  Iff.rfl
```

**Comment by FernandoChu** [comment]
Missed those `by`s, thanks!

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge
